US07875715B2
Intermediate 152: 6,7-Difluoroquinoxalin-2(1H)-one
To a stirred solution of 4,5-difluorobenzene-1,2-diamine (4.7 g, 32.6 mmol) in ethanol (75 mL) was added ethyl oxoacetate (50 wt % in toluene, 13.3 mL, 65.3 mmol). The reaction was stirred at room temperature overnight. The resulting precipitate was collected by filtration, washed with ethanol, and dried under reduced pressure to give 4.3 g (73%) of the product as a colorless solid.

reactant | 4,5-difluorobenzene-1,2-diamine | 32.6 mmol, 4.7 g | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | ethyl oxoacetate | 65.3 mmol, 13.3 mL | O=CC(=O)OCC | C4H6O3
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 6,7-Difluoroquinoxalin-2(1H)-one | 4.3 g, 73% | FC=1C=C2N=CC(NC2=CC1F)=O | C8H4F2N2O
